US06002008
4-[(4-Chloro-2-fluorophenyl)amino]-7-methoxy-6-nitro-3-quinolinecarbonitrile
A mixture of 5.017 g (19.0 mmol) 4-chloro-7-methoxy-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol, and .2.55 ml 22.8 mmol) 4-chloro-2-fluoroaniline was heated to reflux under N2. At 3.5 hours, removed heat and made basic with saturated sodium bicarbonate. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane, collected solids, and washed with water. Dissolved in ethyl acetate, stirred with Darco, filtered, stripped solvent, and dried in vacuo, giving 6.54 g of yellow solid: mass spectrum (electrospray m/e): M+H=372.8, 374.8.

reactant | 4-chloro-7-methoxy-6-nitro-3-quinolinecarbonitrile | 19.0 mmol, 5.017 g | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OC)C#N | C11H6ClN3O3
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[(4-Chloro-2-fluorophenyl)amino]-7-methoxy-6-nitro-3-quinolinecarbonitrile | 6.54 g | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OC)C#N)F | C17H10ClFN4O3
